US04289777
(A) 1-Butyl-1,4-dihydro-7-methoxy-4-quinolone-3-carboxylic Acid
11.0 g. (50 millimoles) of 4-hydroxy-7-methoxyquinoline-3-carboxylic acid is introduced into a suspension of 14.0 g. (351 millimoles) of pulverized sodium hydroxide in 200 ml. of dimethyl sulfoxide. The mixture is stirred for 10 minutes at room temperature, and then 16.1 ml. (150 mmol) of butyl bromide is added dropwise thereto so that the temperature does not exceed 25° C. Thereafter, the mixture is stirred for 2 hours at room temperature, poured into water, and acidified with hydrochloric acid. The thus-precipitated product is filtered off, washed with water, dried, and recrystallized from dimethylformamide.

reactant | 4-hydroxy-7-methoxyquinoline-3-carboxylic acid | 50 millimoles | OC1=C(C=NC2=CC(=CC=C12)OC)C(=O)O | C11H9NO4
reactant | sodium hydroxide | 351 millimoles | [OH-].[Na+]
reactant | butyl bromide | 150 mmol | C(CCC)Br | C4H9Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-Butyl-1,4-dihydro-7-methoxy-4-quinolone-3-carboxylic Acid | C(CCC)N1C=C(C(C2=CC=C(C=C12)OC)=O)C(=O)O | C15H17NO4
